US05262390
A mixture of 2.19 g (0.0104 mole) of methyl 2-(4-hydroxymethylphenoxy)propionate and 3.00 g (0.0823 mole) of 36% hydrochloric acid was stirred for fifteen minutes at room temperature. The reaction mixture was then poured into ice-water, and the resulting mixture was extracted with diethyl ether. The extracts were combined and washed in succession with water and a saturated aqueous solution of sodium bicarbonate. The extract was dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated from the filtrate under reduced pressure, leaving a colorless liquid. This liquid was placed on a column of silica gel and eluted with methylene chloride. After the product-containing fractions were combined and the solvent evaporated under reduced pressure, 1.6 g of methyl 2-(4-chloromethylphenoxy)propionate was isolated as a colorless liquid. The NMR and IR spectra were consistent with the proposed structure.

reactant | methyl 2-(4-hydroxymethylphenoxy)propionate | 0.0104 mole, 2.19 g | OCC1=CC=C(OC(C(=O)OC)C)C=C1 | C11H14O4
reactant | hydrochloric acid | 0.0823 mole, 3.00 g | Cl | ClH
product | methyl 2-(4-chloromethylphenoxy)propionate | 1.6 g | ClCC1=CC=C(OC(C(=O)OC)C)C=C1 | C11H13ClO3
